US07381726B2
Production of Form X of 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine hydrochloride
8.6 g of 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine is dissolved in tetrahydrofuran and 19.4 ml 1N hydrochloric acid and 7.4 ml water are added within 30 minutes to this solution at 35-37° C. After stirring of five hours, precipitation occurs and suction filtration is effected. Drying in vacuo at room temperature to constant weight leads to the solvate of 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine hydrochloride with tetrahydrofuran of Form X which present the x-ray diffraction spectrum of FIG. 15.

reactant | 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine | 8.6 g | C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(N)=O)C1 | C26H27N5O2
reactant | hydrochloric acid | 1N, 19.4 ml | Cl | ClH
reactant | water | 7.4 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine hydrochloride | Cl.C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(N)=O)C1 | InChI=1S/C26H27N5O2.ClH/c27-16-18-4-6-23-22(13-18)19(17-29-23)3-1-2-8-30-9-11-31(12-10-30)21-5-7-24-20(14-21)15-25(33-24)26(28)32;/h4-7,13-15,17,29H,1-3,8-12H2,(H2,28,32);1H
